US09233958B2
(2S)-2-Acetoxy butyric acid
Sodium acetate (11.9 g, 146 mmol) and tert-butyl nitrite (15.0 g, 146 mmol) were added to an acetic acid (300 mL) solution of (2S)-2-aminobutyric acid (10.0 g, 97.0 mmol) under ice cooling, and the mixture was stirred at 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure, then water was added to the reaction mixture, and the resulting mixture was extracted twice with ethyl acetate. The organic layer thus obtained was washed with water and brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and further, the resulting residue was azeotropically boiled twice with 1,4-dioxane (50 mL) to give the title compound (8.4 g, yield: 60%).

reactant | Sodium acetate | 146 mmol, 11.9 g | C(C)(=O)[O-].[Na+]
reactant | tert-butyl nitrite | 146 mmol, 15.0 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | (2S)-2-aminobutyric acid | 97.0 mmol, 10.0 g | N[C@H](C(=O)O)CC | C4H9NO2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | (2S)-2-Acetoxy butyric acid | 8.4 g, yield: 60% | C(C)(=O)O[C@H](C(=O)O)CC | C6H10O4
